US07598264B2
Methyl 6-(3-chloro-4-fluorobenzyl)-4-methoxy-2-methyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxylate
To a solution of methyl 6-(3-chloro-4-fluorobenzyl)-4-hydroxy-2-methyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxylate (7.25 g, 18 mmol) in anhydrous DMF (75 mL) was added cesium carbonate (5.98 g, 18 mmol) and iodomethane (2.86 mL, 46 mmol). The reaction was stirred at room temperature overnight, and LCMS showed 70% completion. The reaction was heated to 50° C. for 7 hours and then allowed to stir at room temperature again overnight. LCMS indicated completion. The reaction was concentrated to dryness, and the resulting residue was dissolved in chloroform. The solution was extracted twice with saturated Na2SO3 solution, dried over sodium sulfate, filtered, and evaporated to afford a dark brown oil.

reactant | methyl 6-(3-chloro-4-fluorobenzyl)-4-hydroxy-2-methyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxylate | 18 mmol, 7.25 g | ClC=1C=C(CN2C(C3=C(C(N(C(=C3CC2)C(=O)OC)C)=O)O)=O)C=CC1F | C18H16ClFN2O5
reactant | cesium carbonate | 18 mmol, 5.98 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | iodomethane | 46 mmol, 2.86 mL | IC | CH3I
solvent | DMF | 75 mL | CN(C)C=O | C3H7NO
product | Methyl 6-(3-chloro-4-fluorobenzyl)-4-methoxy-2-methyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxylate | ClC=1C=C(CN2C(C3=C(C(N(C(=C3CC2)C(=O)OC)C)=O)OC)=O)C=CC1F | C19H18ClFN2O5
